US07842688B2
a) tert-Butyl 3-[4-fluoro-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
Analogously to Method D, 0.213 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.114 g of 4-chloromethyl-1-fluoro-2-(3-methoxypropoxy)benzene are reacted. The title compound is obtained as a colourless oil. Rt=6.28.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.213 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 4-chloromethyl-1-fluoro-2-(3-methoxypropoxy)benzene | 0.114 g | ClCC1=CC(=C(C=C1)F)OCCCOC | C11H14ClFO2
product | tert-Butyl 3-[4-fluoro-3-(3-methoxypropoxy)benzyloxy]-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | FC1=C(C=C(COC2CN(CCC2C2=CC=C(C=C2)OCCCOCC2=C(C=CC=C2)OC)C(=O)OC(C)(C)C)C=C1)OCCCOC | C38H50FNO8
